US07482486B2
Unless magnesium ethoxide is freshly generated in situ by reaction of magnesium metal with ethanol, the magnesium ethoxide solids that are obtained commercially frequently contain colored by-products that are potential contaminants of the desired product, magnesium valproate hydrate. To demonstrate the purification of an alcohol solution containing magnesium valproate and colored contaminants, a solution of magnesium valproate in absolute ethanol was obtained in the following manner. To a magnetically stirred, clear, colorless solution of valproic acid (15.12 g; 0.105 mol; Sigma Aldrich Chemical Co.) in 90 mL of absolute ethanol was added 5.7 g (0.05 mol) of magnesium ethoxide solid (Sigma Aldrich Chemical Co.). Within 30 minutes, a clear, pale yellow solution was obtained; no increase in reaction temperature was observed. The pale yellow solution was treated with decolorizing carbon. After filtration with the aid of Celite to facilitate carbon removal, a nearly colorless filtrate solution was obtained. Acetonitrile (45 mL) was added to the ethanol solution in portions, and when the addition was complete, a white precipitate formed. The reaction mixture was cold to the touch. The slurry was stirred for 15 minutes. The product, magnesium valproate hydrate, was isolated by filtration, washed with fresh acetonitrile, and dried to constant weight. The product, magnesium valproate hydrate, was obtained in 77% yield as a white solid, which exhibited an elemental composition identical to that calculated for magnesium valproate hydrate (Table 4). The product did not melt at temperatures as high as 300° C. The product was not hygroscopic or deliquescent and was stable during storage under ambient conditions. X-ray diffraction analysis showed that magnesium valproate hydrate of the present invention is a polymorph having both crystalline and amorphous structural features. The theoretical valproate content (weight %) of magnesium valproate hydrate is 88.6%; the valproate content found by HPLC analysis was 88.5%.

reactant | valproic acid | 0.105 mol, 15.12 g | C(C(CCC)CCC)(=O)O | C8H16O2
reactant | magnesium ethoxide | 0.05 mol, 5.7 g | [O-]CC.[Mg+2].[O-]CC
reactant | Acetonitrile | 45 mL | C(C)#N | C2H3N
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | magnesium valproate hydrate | O.C(C(CCC)CCC)(=O)[O-].[Mg+2].C(C(CCC)CCC)(=O)[O-] | InChI=1S/2C8H16O2.Mg.H2O/c2*1-3-5-7(6-4-2)8(9)10;;/h2*7H,3-6H2,1-2H3,(H,9,10);;1H2/q;;+2;/p-2
